US04247549
Synthesis of 1-(1,1-dimethylethoxycarbonyl)-4-phenylmethoxypiperazine.
A solution of 10.0 g (0.058 mole) m-chloroperbenzoic acid in 100 ml chloroform was added over a one hour period to a cooled (0°-5° C.) solution of 16.1 g (0.058 mole) 1-[1,1-dimethylethoxycarbonyl]-4-phenylmethylpiperazine in 200 ml chloroform. External cooling was removed and the solution stirred for 96 hours at room temperature. The solution was then successively passed through four alumina-packed columns (2.2×16 cm), the eluent evaporated in vacuo, treated with 200 ml acetone and diluted with 50 ml hexane to yield 9.0 g white, crystalline solid, m.p. 123°-126° C. (sealed capillary). An analytical sample from a prior run gave a satisfactory elemental analysis. Calc. for C16H29N2O3.H2O (310.40): C, 61.91; H, 8.44; N, 9.03; O, 20.62. Found: C, 61.91; H, 8.27; N, 9.07; O, 20.55.

reactant | m-chloroperbenzoic acid | 0.058 mole, 10.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1-[1,1-dimethylethoxycarbonyl]-4-phenylmethylpiperazine | 0.058 mole, 16.1 g | CC(C)(OC(=O)N1CCN(CC1)CC1=CC=CC=C1)C | C16H24N2O2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(1,1-dimethylethoxycarbonyl)-4-phenylmethoxypiperazine | CC(C)(OC(=O)N1CCN(CC1)OCC1=CC=CC=C1)C | C16H24N2O3
